US05179211
Aniline was reacted with methyl isobutyl ketone in the same way as in Example 3. 3-Isopropyl-2-methylindole was formed in a yield of 86% of the theoretical yield.

reactant | Aniline | NC1=CC=CC=C1 | C6H7N
reactant | methyl isobutyl ketone | C(C(C)C)C(=O)C | C6H12O
product | 3-Isopropyl-2-methylindole | yield of 86% | C(C)(C)C1=C(NC2=CC=CC=C12)C | C12H15N
